US07220880B2
2-(4-Fluoro-phenoxy)-2-methyl-3-(4-{[2-(4-phenoxy-phenyl)-ethylcarbamoyl]-methoxy}-phenyl)-propionic acid
The title compound was prepared using same method for 2-Methyl-2-phenoxy-3-(4-{[2-(4-phenoxy-phenyl)-ethylcarbamoyl]-methoxy}-phenyl)-propionic acid from 2-(4-Fluoro-phenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester.

reactant | 2-Methyl-2-phenoxy-3-(4-{[2-(4-phenoxy-phenyl)-ethylcarbamoyl]-methoxy}-phenyl)-propionic acid | CC(C(=O)O)(CC1=CC=C(C=C1)OCC(NCCC1=CC=C(C=C1)OC1=CC=CC=C1)=O)OC1=CC=CC=C1 | C32H31NO6
reactant | 2-(4-Fluoro-phenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC=C(C=C1)F)=O | C18H19FO4
product | 2-(4-Fluoro-phenoxy)-2-methyl-3-(4-{[2-(4-phenoxy-phenyl)-ethylcarbamoyl]-methoxy}-phenyl)-propionic acid | FC1=CC=C(OC(C(=O)O)(CC2=CC=C(C=C2)OCC(NCCC2=CC=C(C=C2)OC2=CC=CC=C2)=O)C)C=C1 | C32H30FNO6
